US06444668B1
To a solution of 8-fluoro-4,4-dimethyl-dihydro-benzo[d][1,3]oxazin-2-one (0. 15 g, 0.77 mmol) in acetic acid (5 mL) was added dropwise a solution of bromine (0.37 g, 2.31 mmol) in acetic acid (5 mL) under nitrogen at rt. After stirred for 10 minutes, the mixture was concentrated and the residue obtained was purified by a silica gel column (hexane:ethyl acetate/4:1) to afford 6-bromo-8-fluoro-4,4-dimethyl-dihydro-benzo[d][1,3]oxazin-2-one as an off-white solid (0.176 g, 84%) which was used in next step without further purification.

reactant | 8-fluoro-4,4-dimethyl-dihydro-benzo[d][1,3]oxazin-2-one | 0.77 mmol, 15 g | FC=1C=CCC2C1NC(OC2(C)C)=O | C10H12FNO2
reactant | bromine | 2.31 mmol, 0.37 g | BrBr | Br2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 6-bromo-8-fluoro-4,4-dimethyl-dihydro-benzo[d][1,3]oxazin-2-one | 0.176 g, 84% | BrC=1CC2C(NC(OC2(C)C)=O)=C(C1)F | C10H11BrFNO2
